US07989467B2
N-ethyl-N-[3-(6-methyl-5H-pyrido[3′,4′:4,5]pyrrolo[2,3-g]isoquinolin-10-ylamino)-propyl]-succinamic acid
A solution of 75 mg of succinic anhydride (0.75 mM) and 250 mg (0.75 mM) of N-ethyl-N′-(6-methyl-5H-pyrido[3′,4′:4,5]pyrrolo[2,3-g]isoquinolin-10-yl)propane-1,3-diamine in 80 ml of dry toluene was brought to reflux for 4 h. The precipitate obtained after cooling was dried and recrystallized with acetone. 240 mg (65.6%) was obtained in the form of solid (F˜150°). Centesimal analysis for C24H27N5O3+3H2O; Calc.: C, 59.12; H, 6.82; N, 14.37; Exp.; C, 59.14; H, 6.88; N, 14.17. NMR and MS in agreement.

reactant | succinic anhydride | 0.75 mM, 75 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | N-ethyl-N′-(6-methyl-5H-pyrido[3′,4′:4,5]pyrrolo[2,3-g]isoquinolin-10-yl)propane-1,3-diamine | 0.75 mM, 250 mg | C(C)NCCCNC1=NC=CC2=C(C3=C(C=C12)C1=C(N3)C=CN=C1)C | C20H23N5
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-ethyl-N-[3-(6-methyl-5H-pyrido[3′,4′:4,5]pyrrolo[2,3-g]isoquinolin-10-ylamino)-propyl]-succinamic acid | C(C)N(C(CCC(=O)O)=O)CCCNC1=NC=CC2=C(C3=C(C=C12)C1=C(N3)C=CN=C1)C | C24H27N5O3
